### PR TITLE
Prove `handleRecv_ccorres` and `handleSyscall_ccorres`

### PR DESCRIPTION
**Pull request by michaelmcinerney**
Test with seL4/seL4@michaelm/ipc_queues_mcs_testing

### CODE REVIEW

File: spec/haskell/src/SEL4/Model/StateData.lhs [hunk 1]
```diff
@@ -578,6 +578,11 @@ An assert that will say that there is a TCB with active' thread state at the giv
 > active_tcb_at'_asrt :: PPtr TCB -> KernelState -> Bool
 > active_tcb_at'_asrt _ _ = True
 
+An assert that will say that there is a schedulable' TCB at the given pointer
```
Comment (lsf37) [inline spec/haskell/src/SEL4/Model/StateData.lhs]: stray `'`
```suggestion
An assert that will say that there is a schedulable TCB at the given pointer
```

Comment (lsf37) [reply spec/haskell/src/SEL4/Model/StateData.lhs]: oh, it's actual `schedulable'`. Hm. That's still going to look like a stray `'` in the future. Does the comment still make sense if we leave it out or does it just become wrong?

Comment (lsf37) [reply spec/haskell/src/SEL4/Model/StateData.lhs]: Or we could put `"schedulable'`"` in the comment. Then it's clearly intentional.

Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Model/StateData.lhs]: Yep, I'll go with that. Just to double check, though, you do mean the back tick things, right? Or quotation marks?

File: proof/crefine/RISCV64/Refine_C.thy [hunk 2]
```diff
@@ -290,157 +292,327 @@ lemma handleUserLevelFault_ccorres:
...
 
 lemma handleSyscall_ccorres:
   "ccorres dc xfdc
-           (invs' and
-               sch_act_simple and ct_running' and
-               (\<lambda>s. ksSchedulerAction s = ResumeCurrentThread))
-           (UNIV \<inter> {s. syscall_' s = syscall_from_H sysc }) []
-           (callKernel (SyscallEvent sysc)) (Call handleSyscall_'proc)"
+     (invs' and sch_act_simple and ct_running'
+      and (\<lambda>s. ksSchedulerAction s = ResumeCurrentThread))
```
Comment (lsf37) [inline proof/crefine/RISCV64/Refine_C.thy]: This was there before, but does it make sense to have both `sch_act_simple` and `(λs. ksSchedulerAction s = ResumeCurrentThread)` in the precondition? I guess it's not contradictory, but usually I'd expect just the stronger one.

File: proof/crefine/RISCV64/Refine_C.thy [hunk 3]
```diff
@@ -290,157 +292,327 @@ lemma handleUserLevelFault_ccorres:
...
+           apply (clarsimp simp: if_to_top_of_bind)
+           apply (rule ccorres_cond[where R=\<top>])
+             apply (clarsimp simp: to_bool_def split: if_splits)
+            prefer 2
+            apply (clarsimp simp: returnOk_def)
+            apply (rule ccorres_returnOk_skip[simplified returnOk_def comp_def])
+           apply (rule ccorres_Catch)
+           apply ccorres_rewrite
+           apply wpc
+                     apply (find_goal \<open>match premises in "sysc = SysSend" \<Rightarrow> succeed\<close>)
```
Comment (lsf37) [inline proof/crefine/RISCV64/Refine_C.thy]: This should also work and is a bit clearer to read:
```suggestion
                     apply (find_case "SysSend")
```

File: proof/crefine/RISCV64/Refine_C.thy [hunk 4]
```diff
@@ -290,157 +292,327 @@ lemma handleUserLevelFault_ccorres:
...
+                         apply (rule ccorres_handlers_weaken2)
+                         apply (rule ccorres_call[where xf'=xfdc, OF checkInterrupt_ccorres]; simp)
+                        apply fastforce
+                       apply wpsimp
+                      apply (rule_tac Q'=invs' in hoare_post_impE_E_dc)
+                       apply wpsimp
+                      apply simp
+                     apply clarsimp
+                     apply (vcg exspec=handleInvocation_modifies)
+                    apply (find_goal \<open>match premises in "sysc = SysNBSend" \<Rightarrow> succeed\<close>)
```
Comment (lsf37) [inline proof/crefine/RISCV64/Refine_C.thy]:
```suggestion
                    apply (find_case "SysNBSend")
```

Comment (lsf37) [reply proof/crefine/RISCV64/Refine_C.thy]: (a few more below)

File: proof/crefine/RISCV64/Refine_C.thy (hunk 2 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Refine_C.thy]: Yeah I thought about changing this, but decided against it for some reason. I can definitely go with just the `ResumeCurrentThread` conjunct.

File: proof/crefine/RISCV64/Refine_C.thy (hunk 3 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Refine_C.thy]: Cool, didn't even know about that one.

Comment (lsf37) [reply proof/crefine/RISCV64/Refine_C.thy]: I like selecting the cases by name, that should be more stable than relying on goal order.

File: proof/crefine/RISCV64/Syscall_C.thy [hunk 5]
```diff
@@ -1498,178 +1508,230 @@ lemma not_obj_at'_ntfn:
...
+         apply (ctac add: receiveIPC_ccorres)
+        apply (clarsimp simp: case_bool_If capFault_bindE liftE_bindE bind_bindE_assoc bind_assoc)
+        apply (rule ccorres_cond_both'[where Q=\<top> and Q'=\<top>])
+          apply clarsimp
+         \<comment> \<open>cap is a NotificationCap\<close>
+         apply (rule ccorres_rhs_assoc)+
+         apply csymbr
+         apply csymbr
+         apply csymbr
+         apply csymbr
```
Comment (lsf37) [inline proof/crefine/RISCV64/Syscall_C.thy]: I'd prefer `(repeat 4 cysmbr)`. Or just `csymbr+` if it doesn't do too much.

**Review by lsf37 — APPROVED** [review]
0 sorries!!

File: proof/crefine/RISCV64/Refine_C.thy (hunk 2 above)
Comment (lsf37) [reply proof/crefine/RISCV64/Refine_C.thy]: If it's messy for some reason somewhere down the track it's also fine to add a comment to curb our enthusiasm for the future.

File: spec/haskell/src/SEL4/Model/StateData.lhs (hunk 1 above)
Comment (lsf37) [reply spec/haskell/src/SEL4/Model/StateData.lhs]: This is a .lhs file, so it's going to be LaTeX text, which means I would actually use quotes, because I'm not sure what the backtick does to LaTeX.

**Comment by michaelmcinerney** [comment]
I should mention for anyone else wanting to review that all of the changes in Refine are just for adding the asserts, and that a lot of the proofs are really just reindented after the asserts are handled.

File: proof/crefine/RISCV64/Refine_C.thy (hunk 2 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Refine_C.thy]: Actually, the guard here can be reduced all the way down to `invs'`. I've done this and weakened the guards of some other proofs in this theory file.

Comment (lsf37) [reply proof/crefine/RISCV64/Refine_C.thy]: Excellent, very nice!

File: proof/crefine/RISCV64/Refine_C.thy [hunk 6]
```diff
@@ -290,157 +292,324 @@ lemma handleUserLevelFault_ccorres:
...
+                  apply (wpsimp wp: hoare_drop_imps)
+                 apply (vcg exspec=handleInvocation_modifies)
+                apply wpsimp
+               apply (find_case SysNBSendRecv)
+               apply (clarsimp simp: syscall_from_H_def syscall_defs)
+               apply (rule ccorres_cond_empty | rule ccorres_cond_univ)+
+               apply (clarsimp simp: liftE_bindE bind_assoc)
+               apply (rule ccorres_rhs_assoc)+
+               apply (ctac add: getNBSendRecvDest_ccorres)
+                 \<comment> \<open>isolate handleInvocation\<close>
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Refine_C.thy:487]: comment above already says `isolate handleInvocation`, I'm confused

Comment (Xaphiosis) [reply proof/crefine/RISCV64/Refine_C.thy:487]: oh, the next comment also says the same thing

File: proof/crefine/RISCV64/Syscall_C.thy [hunk 7]
```diff
@@ -1498,178 +1508,227 @@ lemma not_obj_at'_ntfn:
...
+   apply (rule ccorres_pre_getCurThread)
+   apply (ctac (no_vcg) add: getMessageInfo_ccorres)
+    apply (rule ccorres_pre_getCurThread)
+    apply (ctac add: capFaultOnFailure_ccorres[OF lookupCap_ccorres])
+       apply ccorres_rewrite
+       apply csymbr
+       apply (rule ccorres_cond_seq)
+       apply (rule ccorres_cond_both'[where Q=\<top> and Q'=\<top>])
+         apply clarsimp
+         apply (frule cap_get_tag_isCap(10))
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Syscall_C.thy]: nitpick: comment here would be good to indicate which case this is, my best guess would be Reply?

Comment (Xaphiosis) [reply proof/crefine/RISCV64/Syscall_C.thy]: you can also try find_names to see if there's a specific name, rather than an indexed one

File: proof/crefine/RISCV64/Syscall_C.thy [hunk 8]
```diff
@@ -1498,178 +1508,227 @@ lemma not_obj_at'_ntfn:
...
+               apply wp
+              apply (vcg exspec=handleFault_modifies)
+             apply vcg
+            apply (rule conseqPre, vcg)
+            apply (clarsimp simp: rf_sr_upd_safe)
+           apply vcg
+          apply (rule conseqPre, vcg)
+          apply (clarsimp simp: rf_sr_upd_safe)
+         apply (vcg exspec=handleFault_modifies)
+        \<comment> \<open>the cap is neither an EndpointCap nor a NotificationCap; throw\<close>
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Syscall_C.thy:1719]: thanks for these, very useful

**Review by Xaphiosis — APPROVED** [review]
Very nice. One proof where the comments are very confusing, and the `monads:` commit could maybe use some kind of `lib` prefix?

File: proof/crefine/RISCV64/Refine_C.thy (hunk 6 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Refine_C.thy:487]: These are in different cases.

File: proof/crefine/RISCV64/Syscall_C.thy (hunk 7 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Syscall_C.thy]: There isn't another name for this. If we don't like the index so much, I could do a `fastforce dest: cap_get_tag_isCap`. Though I'm not sure whether that's better. Maybe it's "less informative", though the indexing could change further down the track...

File: proof/crefine/RISCV64/Refine_C.thy (hunk 6 above)
Comment (Xaphiosis) [reply proof/crefine/RISCV64/Refine_C.thy:487]: Right, but there's no documentation that there are cases or what they might be

File: proof/crefine/RISCV64/Syscall_C.thy (hunk 7 above)
Comment (Xaphiosis) [reply proof/crefine/RISCV64/Syscall_C.thy]: Nah, if there isn't keep the 10 but put in a comment hint as to which one you mean, in case the numbering ever changes (e.g. when moving to a different arch)

**Comment by michaelmcinerney** [comment]
> Very nice. One proof where the comments are very confusing, and the `monads:` commit could maybe use some kind of `lib` prefix?

We're inconsistent with this. Corey seems to use `lib/monads` but Gerwin has used both recently. My most recent commits for this use just `monads`. The commit message doc does mention `lib/monads` explicitly, so I suppose I should go with that.

File: proof/crefine/RISCV64/Refine_C.thy (hunk 6 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Refine_C.thy:487]: There are numerous `find_case` statements throughout this proof.

Comment (Xaphiosis) [reply proof/crefine/RISCV64/Refine_C.thy:487]: They don't jump out as nicely as comments, but I will concede the point.

File: proof/crefine/RISCV64/Syscall_C.thy [hunk 9]
```diff
@@ -1498,178 +1508,227 @@ lemma not_obj_at'_ntfn:
...
-             apply (ctac  add: receiveSignal_ccorres)
+         apply (simp add: case_bool_If if_to_top_of_bind)
+         apply ccorres_rewrite
+         apply (rule ccorres_cond_seq)
+         apply (subst if_swap)
+         apply (rule ccorres_cond[where R=\<top>])
+           apply (frule ccap_relation_ep_helpers)
+            apply (fastforce dest: cap_get_tag_isCap)
+           apply (clarsimp simp: from_bool_def split: bool.splits)
+          \<comment> \<open>capCanReceive is false; update faults then call handleFault\<close>
```
Comment (corlewis) [inline proof/crefine/RISCV64/Syscall_C.thy:1591]: Thanks for these comments, very helpful!

**Review by corlewis — APPROVED** [review]
Very nice once again!

**Comment by corlewis** [comment]
> > Very nice. One proof where the comments are very confusing, and the `monads:` commit could maybe use some kind of `lib` prefix?
> 
> We're inconsistent with this. Corey seems to use `lib/monads` but Gerwin has used both recently. My most recent commits for this use just `monads`. The commit message doc does mention `lib/monads` explicitly, so I suppose I should go with that.

I've gone back and forth on that tag quite a few times and in more recent work have settled on just using `monads:` (or `monads/nondet:` if it's more specific). In my mind the monads directory is big enough now to be its own thing, and keeping the `lib` tag in it made commit titles very unwieldy.

**Comment by michaelmcinerney** [comment]
> > > Very nice. One proof where the comments are very confusing, and the `monads:` commit could maybe use some kind of `lib` prefix?
> > 
> > 
> > We're inconsistent with this. Corey seems to use `lib/monads` but Gerwin has used both recently. My most recent commits for this use just `monads`. The commit message doc does mention `lib/monads` explicitly, so I suppose I should go with that.
> 
> I've gone back and forth on that tag quite a few times and in more recent work have settled on just using `monads:` (or `monads/nondet:` if it's more specific). In my mind the monads directory is big enough now to be its own thing, and keeping the `lib` tag in it made commit titles very unwieldy.

Oh dear I've just gone and made it `lib/monads`. I guess we should update the commit messages doc if we want to do something else.

File: lib/Monads/nondet/Nondet_Lemmas.thy [hunk 10]
```diff
@@ -166,6 +166,10 @@ lemma liftE_handleE[simp]:
   "(liftE a <handle> b) = liftE a"
   unfolding handleE_def by simp
 
+lemma liftE_case_sum:
+  "liftE f >>= case_sum e g = f >>= g"
+  by (simp add:liftE_def)
```
Comment (corlewis) [inline lib/Monads/nondet/Nondet_Lemmas.thy:171]: Actually, talking about the monads directory has reminded me, any chance you could add this to the equivalent place in `Monads/trace/Trace_Lemmas.thy`? It should almost definitely just work for the trace monad as well and we want to keep `nondet` and `trace` consistent as much as possible.

Comment (michaelmcinerney) [reply lib/Monads/nondet/Nondet_Lemmas.thy:171]: These commits are just for the `rt` branch. I could do a similar thing for `master`, but the commit would be different because I'd be removing this lemma from CRefine in all architectures. Maybe I could add it for the trace monad when I do that, if we'd like. Thoughts?

Comment (corlewis) [reply lib/Monads/nondet/Nondet_Lemmas.thy:171]: Sure, that works.

File: proof/crefine/RISCV64/Refine_C.thy (hunk 6 above)
Comment (lsf37) [reply proof/crefine/RISCV64/Refine_C.thy:487]: That might be my fault: I suggested the `find_case` statements because they were shorter compared to the previous longer `find_goal` statements that did actually stand out. No sure what the best way is to do these. Comments stand out because they are syntax highlighted and the long statement stood out because it used a long string/cartouche that is also syntax highlighted. `find_case` reduces it to just the necessary part and no longer stands out. Would it make sense to start a convention that we want an empty line before a `find_case` statement or something like that?
